US07160888B2
Synthesis of 6-Fluoro-7-[4-(4-isoquinolin-5-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one
The title compound was prepared by reductive amination of 4-(3-fluoro-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde with 5-piperazin-1-yl-isoquinoline using a procedure similar to Example A1′. MS: APCI: M+1: 450.2 (Exact Mass: 449.22).

reactant | 4-(3-fluoro-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | FC=1C(=NC=2NC(CCC2C1)=O)OCCCC=O | C12H13FN2O3
reactant | 5-piperazin-1-yl-isoquinoline | N1(CCNCC1)C1=C2C=CN=CC2=CC=C1 | C13H15N3
product | 6-Fluoro-7-[4-(4-isoquinolin-5-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one | FC=1C=C2CCC(NC2=NC1OCCCCN1CCN(CC1)C1=C2C=CN=CC2=CC=C1)=O | C25H28FN5O2
